US03931177
Preparation of 6-[4-(3-t-Butylamino-2-hydroxypropoxy)-3-methoxyphenyl]-4,5-dihydro-3-(2H)-pyridazinone
A stirred mixture of 6-[4-(2,3-epoxypropoxy)-3-methoxyphenyl]-4,5-dihydro-3(2H)-pyridazinone (1.2 g, 0.0043 mole), methanol (24 ml), and t-butylamine (2.76 ml, 0.026 mole) was heated under reflux for 90 minutes. Evaporation of the solution under reduced pressure gave a glassy residue (1.44 g, 95%). The crude hemisulphate of 6-[4-(3-t-butylamino-2-hydroxypropoxy)-3-methoxyphenyl]-4,5-dihydro-3(2H)-pyridazinone (m.p. 266°-268.5°C) was recrystallised from methanol-ether to give the pure hemisulphate m.p. 270°-272°C decomposition.

reactant | 6-[4-(2,3-epoxypropoxy)-3-methoxyphenyl]-4,5-dihydro-3(2H)-pyridazinone | 0.0043 mole, 1.2 g | O1C(COC2=C(C=C(C=C2)C=2CCC(NN2)=O)OC)C1 | C14H16N2O4
reactant | t-butylamine | 0.026 mole, 2.76 ml | C(C)(C)(C)N | C4H11N
solvent | methanol | 24 ml | CO | CH4O
product | 6-[4-(3-t-Butylamino-2-hydroxypropoxy)-3-methoxyphenyl]-4,5-dihydro-3-(2H)-pyridazinone | 1.44 g, 95% | C(C)(C)(C)NCC(COC1=C(C=C(C=C1)C=1CCC(NN1)=O)OC)O | C18H27N3O4
